US07160888B2
Synthesis of 7-[4-(4-Chroman-8-yl-piperazin-1-yl)-butoxy]-3,4-dihydro-1H-pyrido[2,3-d]pyrimidin-2-one
To a solution of 7-[4-(4-chroman-8-yl-piperazin-1-yl)-butoxy]-1H-pyrido[2,3-d]pyrimidin-2-one (320 mg) in THF (6 mL) and MeOH (2 mL) was added NaBH4 (54 mg) in portions. After the addition was over, the mixture was kept stirring overnight. The reaction was quenched with H2O. The mixture was extracted with CH2Cl2 (3×50 mL). The combined organic phases were dried over Na2SO4 and concentrated. The residue was purified by chromatography on silica gel to give a semi-solid which was converted to its HCl salt by treating with 1 equivalent of 1 N HCl in a mixed solvent of THF and Et2O to give the title compound (147 mg) as a white solid. 1H NMR (400 MHz, DMSO-d6): δ 9.20 (s, 1H), 7.40 (d, 1H), 6.98 (s, 1H), 7.70 (m, 3H), 6.25 (d, 1H), 4.30–4.06 (m, 6H), 3.60–3.30 (m, 4H), 3.15 (m, 4H), 3.00–2.70 (, 4H), 2.00–1.60 (m, 6H).

reactant | 7-[4-(4-chroman-8-yl-piperazin-1-yl)-butoxy]-1H-pyrido[2,3-d]pyrimidin-2-one | 320 mg | O1CCCC2=CC=CC(=C12)N1CCN(CC1)CCCCOC=1C=CC2=C(NC(N=C2)=O)N1 | C24H29N5O3
reactant | NaBH4 | 54 mg | [BH4-].[Na+]
reactant | HCl | Cl | ClH
reactant | HCl | 1 N, 1 equivalent | Cl | ClH
reactant | Et2O | CCOCC | C4H10O
solvent | THF | 6 mL | C1CCOC1 | C4H8O
solvent | MeOH | 2 mL | CO | CH4O
product | 7-[4-(4-Chroman-8-yl-piperazin-1-yl)-butoxy]-3,4-dihydro-1H-pyrido[2,3-d]pyrimidin-2-one | 147 mg | O1CCCC2=CC=CC(=C12)N1CCN(CC1)CCCCOC=1C=CC2=C(NC(NC2)=O)N1 | C24H31N5O3
